US09428452B2
N-(2,4-dimethylphenyl)-4-(1-hydroxy-2-((3-methyloxetan-3-yl)amino)ethyl)-N-isobutyl-2-methylbenzenesulfonamide
To a stirred solution of N-(2,4-dimethylphenyl)-N-isobutyl-2-methyl-4-(oxiran-2-yl)benzenesulfonamide (20 mg, 0.054 mmol) in ethanol at 25° C. was added 3-methyloxetan-3-amine (5.08 mg, 0.058 mmol). The reaction mixture was then stirred at 50° C. for 18 hours. Another portion of 3-methyloxetan-3-amine (5.08 mg, 0.058 mmol) was then added and the reaction stirred for a further 8 hours at 50° C. The reaction mixture was concentrated in vacuo and purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were concentrated under a stream of nitrogen to give the required product, 5.2 mg. LCMS [LCMS2] Rt 1.23 min, m/z (ES+) 461 (M+H).

reactant | N-(2,4-dimethylphenyl)-N-isobutyl-2-methyl-4-(oxiran-2-yl)benzenesulfonamide | 0.054 mmol, 20 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C=C(C=C1)C1OC1)C)CC(C)C | C21H27NO3S
reactant | 3-methyloxetan-3-amine | 0.058 mmol, 5.08 mg | CC1(COC1)N | C4H9NO
reactant | 3-methyloxetan-3-amine | 0.058 mmol, 5.08 mg | CC1(COC1)N | C4H9NO
solvent | ethanol | C(C)O | C2H6O
product | N-(2,4-dimethylphenyl)-4-(1-hydroxy-2-((3-methyloxetan-3-yl)amino)ethyl)-N-isobutyl-2-methylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C=C(C=C1)C(CNC1(COC1)C)O)C)CC(C)C | C25H36N2O4S
